*EL2009 Macromodel 
* Connections:         +input
*                      |   output
*                      |   |   +Vsupply
*                      |   |   |   -Vsupply
*                      |   |   |   |  
.subckt EL2009         4   2   5   1  
*
* Input Stage 
*
e1 10 0 4 0 1.0
r1 10 0 1K  
rh 10 11 1K  
ch 11 0 1pF    
rc 11 12 6.3K
cc 12 0 0.159pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1  1 13 14 qp    
q2  5 13 15 qn 
q3  5 14 16 qn 10
q4  1 15 19 qp 10
r2 16 2 0.2
r3 19 2 0.2
c1 14 0 1.7pF
c2 15 0 1.7pF
i1 5 14 5mA
i2 15 1 5mA    
*
* Bias Current
*
iin+ 4 0 5uA 
*
* Models
*
.model qn npn(is=5e-15 bf=500) 
.model qp pnp(is=5e-15 bf=500)
*
.ends