*EL2018 Macromodel
* Connections:         +input
*                      |   -input
*                      |   |   +V
*                      |   |   |   -V  __
*                      |   |   |   |   LE  __    
*                      |   |   |   |   |   CS 
*                      |   |   |   |   |   |   output
*                      |   |   |   |   |   |   |  
*                      |   |   |   |   |   |   |
.subckt EL2018         2   3   8   4   6   5   7
*
*Input Stage 
*
i1 8 10 700uA
r1 13 4 1K
r2 14 4 1K
q1  8 3 11  qn
q2  8 2 12  qn
q3 13 11 10 qp 
q4 14 12 10 qp 
i2 11 4 200uA
i3 12 4 200uA          
*
* 2nd Stage & Flip Flop
*
*i4 8 24 700uA  
i4 8 24 1mA
q9  22  6 24 qp
q10 18 17 24 qp
v1 17 0 2.5V
q5 15 14 22 qp 
q6 16 13 22 qp
r3 15 4 1K
r4 16 4 1K
q7 16 15 18 qp
q8 15 16 18 qp
*
* Output Stage  
* 
i7 8 35 2mA
s1 35 20 5 0 sw
d2 35 8 ds
i6 26 34 5mA
s2 34 4 5 0 sw
d3 34 26 ds
q19 8 20 21 qn 2
q20 4 19  7 qp 2
r8 21  7 60
r7 20 19 4K
q17 19 16 26 qn 5
q18  0 15 26 qn 5
q22 20 20 30 qn 5
q23 19 19 30 qp 8
d1 0 19 ds
q21 0 17 19 qp
*
* Power Supply Current
*
ips 8 4 4mA
*
* Models 
*
.model qn npn(is=2e-15 bf=400 tf=0.05nS cje=0.3pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.3nS cje=0.5pF cjc=0.5pF ccs=0.4pF)
.model ds d(is=2e-12 tt=0.05nS eg=0.62V vj=0.58)

*.model sw vswitch(von=0.4v voff=2.5v)
*jg,6/7/2000: corrected model syntax

.model sw sw(RON=1 ROFF=1000g  vt=0.4v vh=2.5v)
.ends