*EL2073 Macromodel 
* 
* Connections:          +input
*                       |   -input
*                       |   |   +Vsupply
*                       |   |   |   -Vsupply
*                       |   |   |   |   output
*                       |   |   |   |   |
.subckt EL2073          3   2   7   4   6
*
*Input Stage 
*
ie 37 4 1mA
r6 36 37 125
r7 38 37 125
rc1 7 30 200
rc2 7 39 200
q1 30 3 36 qn
q2 39 2 38 qna
ediff 33 0 39 30 1
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 34 33 0 2m
rh 34 0 500K
ch 34 0 1.2pF
rc 34 40 400
cc 40 0 0.3pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 75
cpa 42 0 0.5pF
rpb 42 43 50
cpb 43 0 0.5pF
*
* Output Stage  
* 
ios1 7 50 3.0mA
ios2 51 4 3.0mA
q3  4 43 50 qp 
q4  7 43 51 qn
q5  7 50 52 qn
q6  4 51 53 qp 
ros1 52 6 2
ros2 6 53 2
*
* Power Supply Current
*
ips 7 4 11.4mA
*
* Models 
*
.model qna npn(is=800e-18 bf=170 tf=0.2nS)
.model qn  npn(is=810e-18 bf=200 tf=0.2nS)
.model qp  pnp(is=800e-18 bf=200 tf=0.2nS)
.ends