*EL2082 Marcromodel
* Connections :    Vgain
*                    |   Iin       
*                    |    |   Vin
*                    |    |    |
*                    |    |    |   Iout
*                    |    |    |    |
.subckt EL2082       1    2    3    6
*
* Capacitors & Inductors 
*
cini 2 0 2pF
c500 502 0 0.9845pF
c501 505 0 1000pF
cout 6 0 5pF
l501 503 504 0.1uH
*
* Resistors
*
rsilly1 1 0 1e9
rsilly2 505 0 1e9
rini 2 500 95
rinv 3 0 2Meg
rout 6 0 1Meg
r500 501 502 1K
r501 504 505 5
r502 506 507 50
r503 508 0 50
*
* Active Elements
*
e500 500 0 3 0 1.0
e501 501 0 poly(1) (2,500) 0 2 0 -0.8 
e502 503 0 poly(1) (1,0) 0 1.05 -0.05
e503 506 0 poly(2) (505,0) (502,0) 0 0 0 0 1
g500 6 0 508 0 -0.0105
t500 508 0 507 0 zo=50 td=1.95nS
*
.ends