*EL2090 Macromodel 
* Revision A, October 1992
.param vclamp = {-0.002*(TEMP-25)}
*
* Connections:      Vidin+
*                   |   Vidin-
*                   |   |   +Vsupply
*                   |   |   |   -Vsupply
*                   |   |   |   |   Vid Out
*                   |   |   |   |   |   S/H In+
*                   |   |   |   |   |   |   S/H In- 
*                   |   |   |   |   |   |   |   S/H Out
*                   |   |   |   |   |   |   |   |   Hold Control
*                   |   |   |   |   |   |   |   |   |   Chold
*                   |   |   |   |   |   |   |   |   |   |
.subckt EL2090      3   1   14  12  13  5   6   11  7   9
*
******** Video Amplifier *******************
*
e1  20 0 3 0 1.0
vis 20 34 0V
h2  34 38 vxx 1.0
r10  1 36 25
l1 36 38 20nH
iinp 3 0 10uA   
iinm 1 0  5uA
h1 21  0 vis 600
r2 21 22 1K
d1 22  0  dclamp
d2  0 22  dclamp 
e2 23 0 22 0 0.00166666666
l5 23 24 0.7uH
c5 24 0 0.5pF
r5 24 0 600
g1 0 25 24 0 1.0
rol 25 0 400K
cdp 25 0 7.7pF  
q1 12 25 26 qp 
q2 14 25 27 qn 
q3 14 26 28 qn 
q4 12 27 29 qp 
r7 28 13 4
r8 29 13 4
ios1 14 26 2.5mA
ios2 27 12 2.5mA
ips 14 12 7.2mA
ivos 0 33 5mA
vxx 33 0 0V
r11 33 0 1K 
*
************ Sample & Hold *************************  
*
g40  49 0 5 6 1e-3
vcur 49 42 0v
r43    6 0 100Meg
r44    5 0 100Meg
r40   42 0 4K
d41 50 42 diode
d42 42 51 diode 

*v41 50 0 {vclamp}
*v42 0 51 {vclamp} 

v41 50 0 DC 0
v42 0 51 DC 0
g41  44 0 42 0 200e-6
r42  44 0 31Meg
d43  44 14 diode
d44  12 44 diode
d45   9 14 diode
d46  12  9 diode  
s1   44 9 48 0 swa 
e40  46 0  9 0 0.95
i40   0 9 10nA
r45  46 47 70
l40  47 11 70nH
c40   7  9 0.32pF
r47   7 48 10K
c41   48 0 3pF  
*
* Models
*
.model qn npn(is=5e-15 bf=500 tf=0.1nS)
.model qp pnp(is=5e-15 bf=500 tf=0.1nS)
.model dclamp d(is=1e-30 ibv=0.02 bv=2.75 n=4)
.model diode d

*.model swa vswitch(von=1.2v voff=1.6v roff=1e12 ron=100)
*jg, 10/7/2000: model syntax corrected

.model swa sw(roff=1e12 ron=100 vt=1.2v vh=1.6v)
.ends