* EL2210/EL2310/EL2410 Macromodel
* Revision A, June 1994
* Application Hints:
*
* A pull down resistor between the output and V- is recommended
* to allow output voltages to swing close to V-. See datasheet
* for recommended values.
*
* Connections:      +In
*                   |   -In 
*                   |   |   V+
*                   |   |   |   V-
*                   |   |   |   |   Vout
*                   |   |   |   |   |
.subckt  EL2210     3   2   8   4   1
q1  20  3 24 qp
q2  21  2 25 qp
q3  10 10 26 qp
q4  12 10 11 qp 
q5  14 10 13 qp
q6  19 19 20 qn
q7  14 19 21 qn
q8   8 14 15 qn
q9   8 16 17 qn 10
r1   24 12 350
r2   12 25 350
r3    8 26 250
r4    8 11 150 
r5    8 13 240
r6   20  4 150
r7   21  4 150
r8   15 17 700
r9    1  4 1250
r10  15 16 40
r11  17  1 15
r12  10 19 10K
r13  14 22 20
c1   22  4 0.45pF
c2   22 19 1pF
d1   1 14 dcap
.model qn npn(bf=150 tf=0.05nS)
.model qp pnp(bf=90 tf=0.05nS)
.model dcap d(rs=200 cjo=1e-12 vj=0.8 tt=100e-9)
.ends