* EL2244 Macromodel 
* connections:         +input
*                      |   -input
*                      |   |   +Vsupply
*                      |   |   |   -Vsupply
*                      |   |   |   |   output
*                      |   |   |   |   |
.subckt EL2244         3   2   7   4   6 
*
* Input stage 
*
ie 7 37 1mA
r6 36 37 800
r7 38 37 800
rc1 4 30 850
rc2 4 39 850
q1 30 3 36 qp
q2 39 2 38 qpa
ediff 33 0 39 30 1.0
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 34 33 0 1m
rh 34 0 2Meg
ch 34 0 1.3pF
rc 34 40 1K
cc 40 0 1pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 200
cpa 42 0 1pF
rpb 42 43 200
cpb 43 0 1pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51 4 1.0mA
q3  4 43 50 qp 
q4  7 43 51 qn
q5  7 50 52 qn
q6  4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 2.7mA
*
* Models 
*
.model qn  npn(is=800e-18 bf=200 tf=0.2nS)
.model qpa pnp(is=864e-18 bf=100 tf=0.2nS)
.model qp  pnp(is=800e-18 bf=125 tf=0.2nS)
.ends   